Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulindac / Aspirin / Hycodan
 
Attending: ___.
 
Chief Complaint:
Cough, shortness of breath.
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is an ___ woman HTN and OSA admitted for cough, 
dyspnea, and tachypnea (RR 35).  Her symptoms started five days 
ago and have failed to resolve with frequent nebs.  In the 
ambulance, she was placed on 6L O2.  After albuterol and 
ipratropium nebs in the ED, she was stable on 3L O2 and her 
respiratory rate decreased to ~20.  In the ED, she was given 
nebs, levofloxacin 750mg, and methyprednisolone 125mg.  Her WBC 
was 13.3 and CXR negative.  Her grand-son had a recent cold.  
She had a recent hospitalization for a diagnosis of COPD 
exacerbation.

ROS: In addition to the cough an dyspnea, she notes nasal 
congestion, rhinorrhea, sore throat, wheeze, and night sweats.  
She denies fatigue, fever, chills, wght loss, headache, 
dizziness, visual changes, sore throat, chest pain, dyspnea, 
abdominal pain, back pain, constipation, diarrhea, hematochezia, 
melena, hematuria, other urinary symptoms, weakness, 
parasthesias, or rash.  All other ROS were negative.
 
Past Medical History:
# Right shoulder replacement.
# Right hip replacement.
# Sinusitis.
# Nonallergic rhinitis.
# COPD.
# Bronchial asthma - not supported by PFTs.
# Obstructive sleep apnea and ? obesity hypoventilation 
syndrome, followed by Dr. ___.
# GERD.
# Hypertension.
# History of glaucoma.
# Arthritis.
# CAD with normal persantine MIBI in ___.
# History of cataract surgery.
# Influenza A ___.
# Severe bronchomalacia of the right main stem bronchus by CT 
___.
# Mild pulmonary HTN by CT ___.
 
Social History:
___
Family History:
Her mother, a daughter, and a granddaughter had breast CA.  Her 
grand daughter died of breast cancer at age ___.  Her daughter 
died from COPD.  She also has a family history of prostate 
cancer.  No known FHx of CAD.
 
Physical Exam:
Admission Physical Examination:
VS: T 98.6F, BP 148/91, HR 65, RR 24, O2 Sat 100% on 4L NC, I/O 
, wght 93.6 lbs.
GEN: A&O, tachypneic, mild respiratory distress.
HEENT: Sclerae non-icteric, EOM intact, CNs intact, o/p clear, 
MMM.
Neck: Supple, no thyromegaly, normal JVP.
Lymph nodes: No cervical, supraclavicular, or inguinal LAD.
CV: S1S2, RRR, no murmurs, rubs or gallops.
RESP: Decreased breath sounds and expiratory wheeze bilaterally.
ABD: Soft, protuberant, non-tender, no HSM.
EXTR: +1 ___ edema (R>L).  No calf tenderness, no finger 
clubbing.  Pedal pulses symmetric.
DERM: No rash.
Neuro: Strength ___ throughout, sensation normal to touch, no 
focal deficits.
PSYCH: Appropriate and calm.
 
Pertinent Results:
ADMISSION LABS:
___ 04:20PM BLOOD WBC-13.3*# RBC-4.75 Hgb-14.2 Hct-42.9 
MCV-90# MCH-29.9 MCHC-33.1 RDW-15.5 Plt ___
___ 04:20PM BLOOD Neuts-78.6* Lymphs-15.8* Monos-3.5 
Eos-1.9 Baso-0.3
___ 04:20PM BLOOD Glucose-90 UreaN-19 Creat-0.8 Na-146* 
K-5.2* Cl-107 HCO3-32 AnGap-12
___ 04:20PM BLOOD Calcium-9.0 Phos-4.2# Mg-2.0

___ CXR : No definite acute cardiopulmonary process.

 
Brief Hospital Course:
1. COPD exacerbation. The patient presented with tachypnea and 
respiratory distress. She was found to have diffuse 
end-expiratory wheezes on exam. Her admission labs were notable 
for a left-shifted leukocytosis. CXR did not show an acute 
infiltrate. She was treated for a probable COPD exacerbation 
with pulse dose steroids, levofloxacin and nebulizer therapy. 
She had improvement back to her baseline respiratory status with 
prominent coughing. A steroids taper was provided at discharge.

CODE: DNR/DNI.
 
Medications on Admission:
Albuterol 90mcg HFA 2 puffs q4-6hr prn
Albuterol 0.63mg/3mL 1 ampule neb qhr prn
Alendronate 70mg PO qwk
Atenolol 100mg PO daily
Benzonatate 100mcg Po TID prn cough
HCTZ 25mg PO daily
Iptratropium 21mcg 1 spray both nostrils qPM
Iptratropium 0.2mg/mL (0.02%) 1 ampule neb q4hr prn
Lisinopril 40mg PO daily
Omeprazole 40mg PO BID
KCl 20meq PO daily
Sertraline 75mg PO daily
Simvastatin 20mg PO daily
Acetaminophen 1000mg PO TID
Aspirin 81mg PO daily
CaCO3-vitamin D3 600mg-400U PO BID
Codeine-guaifenesin 100mg-10mg/5mL 10mL PO q4hr prn
Simethicone 180mg PO TID prn
 
Discharge Medications:
1. alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

2. atenolol 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
3. hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
4. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
5. potassium chloride 20 mEq Tablet, ER Particles/Crystals Sig: 
One (1) Tablet, ER Particles/Crystals PO once a day.  
6. sertraline 50 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
7. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
8. acetaminophen 650 mg Tablet Sig: One (1) Tablet PO three 
times a day as needed for Pain.  
9. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
10. Calcium 600 + D(3) 600 mg(1,500mg) -400 unit Tablet Sig: One 
(1) Tablet PO twice a day.  
11. simethicone 180 mg Capsule Sig: One (1) Capsule PO three 
times a day as needed for indigestion.  
12. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
13. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: ___  Inhalation Q4H (every 4 hours) as needed 
for Bronchospasm, dyspnea, wheeze.  
14. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___  Inhalation every six (6) hours as needed for shortness of 
breath or wheezing.  
15. ipratropium bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q4H (every 4 hours) as needed for Dyspnea, wheeze.  
16. benzonatate 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day) as needed for Cough.
Disp:*30 Capsule(s)* Refills:*0*
17. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
18. ipratropium bromide  Nasal
19. codeine-guaifenesin ___ mg/5 mL Syrup Sig: ___ MLs PO 
Q4H (every 4 hours) as needed for Cough.
Disp:*qs mL* Refills:*0*
20. prednisone 10 mg Tablet Sig: as directed Tablet PO DAILY 
(Daily) for 8 days: 60 mg x2 days
40 mg x2 days
20 mg x2 days
10 mg x2 days.
Disp:*40 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
COPD with acute exacerbation
HTN
CAD
Hyperlipidemia
GERD
Depression
Glaucoma
 
Discharge Condition:
Mental status: A&Ox3
Ambulatory status: With assistance.
 
Discharge Instructions:
You were admitted with shortness of breath and cough. This was 
due to a COPD exacerbation. You have been prescibed a prednisone 
taper and have follow-up with your pulmonologist shceduled for 
___.
 
Followup Instructions:
___